US07109238B2
a) 6-(1,1-Dimethyl-1-aminoethyl)-1,2,3,4-tetrahydronaphthalene hydrochloride
A solution of 1.0 g (4.2 mmol) of 6-(1,1-dimethyl-1-aminoethyl)naphthalene hydrochloride in glacial acetic acid (100 mL) was treated under Argon atmosphere with PtO2 (350 mg). The mixture was hydrogenated in a Parr shaker at 50 psi for 1 h. and filtered through a plug of celite. The filtrate was concentrated in vacuo and concentrated from ether. The residue was triturated with ether and the white crystalline solid (850 mg, 85% yield) was collected, washed with ether and dried. MS(ES) m/z 204.2(M+H)+; Elemental analysis: theoretical for C14H21N.HCl.1/2 H2O: C, 67.58; H, 9.31; N, 5.63. found: C, 67.51; H, 9.31; N, 5.63.

reactant | 6-(1,1-dimethyl-1-aminoethyl)naphthalene hydrochloride | 4.2 mmol, 1.0 g | Cl.CC(CC=1C=C2C=CC=CC2=CC1)(N)C
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
catalyst | PtO2 | 350 mg | O=[Pt]=O
product | 6-(1,1-Dimethyl-1-aminoethyl)-1,2,3,4-tetrahydronaphthalene hydrochloride | 850 mg, 85% yield | Cl.CC(CC=1C=C2CCCCC2=CC1)(N)C | InChI=1S/C14H21N.ClH/c1-14(2,15)10-11-7-8-12-5-3-4-6-13(12)9-11;/h7-9H,3-6,10,15H2,1-2H3;1H
